US09169254B2
A 1.6 M solution of n-butyllithium in hexane (2.5 mL) was added dropwise to a suspension of triphenyl-(3,3,3-trifluoro-propyl)-phosphonium iodide (1.90 g, 3.91 mmol) in tetrahydrofuran (14 mL) at 0° C. The mixture was stirred at 0° C. for 35 minutes, and a solution of 4-formyl-cyclohexanecarboxylic acid methyl ester (605 mg, 3.55 mmol) in tetrahydrofuran (8.0 mL) was then added dropwise to the reaction solution at −78° C. The mixture was stirred for 45 minutes, and a saturated aqueous ammonium chloride solution was then added, followed by extraction with tert-butyl methyl ether. The organic layer was washed with water and a saturated aqueous sodium chloride solution and washed with sodium sulfate. After concentration, the residue was purified by silica gel column chromatography to give 4-(4,4,4-trifluoro-but-1-enyl)-cyclohexanecarboxylic acid methyl ester (657 mg, 67%) as a colorless oily substance and geometric isomer mixture.

reactant | n-butyllithium | C(CCC)[Li]
reactant | triphenyl-(3,3,3-trifluoro-propyl)-phosphonium iodide | 3.91 mmol, 1.90 g | [I-].C1(=CC=CC=C1)[P+](CCC(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-formyl-cyclohexanecarboxylic acid methyl ester | 3.55 mmol, 605 mg | COC(=O)C1CCC(CC1)C=O | C9H14O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 2.5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
product | 4-(4,4,4-trifluoro-but-1-enyl)-cyclohexanecarboxylic acid methyl ester | 657 mg, 67% | COC(=O)C1CCC(CC1)C=CCC(F)(F)F | C12H17F3O2
